US07435751B2
Step 2: Preparation of 5-amino-7-fluoro-1-propyl-1,3-dihydro-indol-2-one
Iron powder (0.855 g, 15.3 mmol) is added in small portions to 7-fluoro-5-nitro-1-propyl-1,3-dihydro-indol-2-one (0.910 g, 3.82 mmol) and ammonium chloride (2.02 g, 38.2 mmol) in ethanol (60 ml) and water (30 ml) at 90° C. The reaction mixture is stirred vigorously and heated for 60 min, cooled to room temperature, and diluted with dichloromethane (300 ml). The mixture is filtered through celite, the organic layer separated and washed with water and brine, dried over sodium sulfate and evaporated to give the title compound as a dark brown solid. HPLC r.t. 3.03 min; MS for C11H13FN2O m/z 209.0 (M+H)+.

reactant | 7-fluoro-5-nitro-1-propyl-1,3-dihydro-indol-2-one | 3.82 mmol, 0.910 g | FC=1C=C(C=C2CC(N(C12)CCC)=O)[N+](=O)[O-] | C11H11FN2O3
reactant | ammonium chloride | 38.2 mmol, 2.02 g | [Cl-].[NH4+]
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | water | 30 ml | O | H2O
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
catalyst | Iron | 15.3 mmol, 0.855 g | [Fe] | Fe
product | 5-amino-7-fluoro-1-propyl-1,3-dihydro-indol-2-one | NC=1C=C2CC(N(C2=C(C1)F)CCC)=O | C11H13FN2O
